US06110962
2-[2,6-Dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxy]-3-naphthalen-2yl-propionic acid
A solution of 2-[2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxy ]-3-naphthalen-2yl--propionic acid, tert butyl ester (0.221 g, 0.270 mmol) in trifluoroacetic acid (10 mL) was heated to 50° C. for 15 hours. The mixture was cooled to room temperature and combined with water. Ether was added and the resulting organic suspension was separated from the water layer and concentrated. The residue was dried in vacuo at 46 C. to provide the title compound as an off white solid (0.186 g, 90%) mp 270-271° C.; NMR (DMSO-d6); δ13.25 (broad singlet, 1 H), 8.28 (d, J=8 Hz, 1 H,), 8.06 (d, J=8 Hz, 1 H), 7.91(m, 4 H), 7.81(d, J=2 Hz, 1 H), 7.79(d, J =2 Hz, 1 H) 7.82-7.77(m, 1 H), 7.63-7.47(m, 6 H), 7.25 (dd, J=7, 1 Hz,, 1 H), 6.64 (d, J=8 Hz, 1 H) 5.42 (t, J=7 Hz, 1 H), 3.59 (d, J=7 Hz, 2 H); MS (FAB+): [M+], 3 bromine pattern, 757.8 (21%) 759.8 (100%) 761.8 (100%) 763.8 (50%); Anal. Calcd. for C31H19Br3O3S: C, 55.07; H,3.04, N, 0.00. Found: C, 55.36; H, 2.89, N, 0.06.

reactant | 2-[2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxy ]-3-naphthalen-2yl--propionic acid, tert butyl ester | 0.270 mmol, 0.221 g | BrC1=C(OC(C(=O)OC(C)(C)C)CC2=CC3=CC=CC=C3C=C2)C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br | C39H29Br3O3S
reactant | water | O | H2O
reactant | Ether | CCOCC | C4H10O
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-[2,6-Dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxy]-3-naphthalen-2yl-propionic acid | BrC1=C(OC(C(=O)O)CC2=CC3=CC=CC=C3C=C2)C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br | C35H21Br3O3S
